US07285558B2
Preparation of N-[(5-formyl-1-methyl-1H-pyrrol-3-yl)sulfonyl]glycine
A solution of 0.8 g (3.3 mmol) N-(tert-butyl)-5-formyl-1-methyl-1H-pyrrole-3-sulfonamide, 1.2 g (9.8 mmol) K2CO3 and 1.4 g (7.2 mmol) tert-butyl bromoacetate in CH3CN was heated at reflux overnight Solvent was removed, and the residue was partitioned between EtOAc and water. The organic layer was separated and washed with brine. Drying (MgSO4) and removal of solvent gave an oil that was chromatographed by normal phase (100% CH2Cl2 followed by gradient elution to 20 EtOAc in CH2Cl2) to give material that was dissolved in 2 mL 1:1 CH2Cl2-TFA with stirring overnight. Solvent was removed to give the title compound as a solid, 1H NMR (DMSO) δ 9.6 (s, 1H), 7.4 (s, 1H), 7.2 (s, 1H), 4.1 (s, 3H), 3.9 (s, 2H).

reactant | N-(tert-butyl)-5-formyl-1-methyl-1H-pyrrole-3-sulfonamide | 3.3 mmol, 0.8 g | C(C)(C)(C)NS(=O)(=O)C1=CN(C(=C1)C=O)C | C10H16N2O3S
reactant | K2CO3 | 9.8 mmol, 1.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | tert-butyl bromoacetate | 7.2 mmol, 1.4 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | CH3CN | CC#N | C2H3N
solvent | CH2Cl2-TFA | C(Cl)Cl.FC(F)(F)C(=O)O
product | N-[(5-formyl-1-methyl-1H-pyrrol-3-yl)sulfonyl]glycine | C(=O)C1=CC(=CN1C)S(=O)(=O)NCC(=O)O | C8H10N2O5S
